US07015218B1
Subsequently, a catalytic amount of potassium iodide was added to 4-isobutoxynitrobenzene (203 g) and the mixture was heated to 60° C. Bromine (183 g) was added dropwise over 3 h. The mixture was stirred further for 1 h. The reaction mixture was poured into water and extracted with toluene. The organic layer was washed with aqueous sodium sulfite solution and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The obtained oily substance was distilled under reduced pressure to give 2-isobutoxy-5-nitrobromobenzene (248 g), boiling point: 135–140° C./0.25 mmHg.

reactant | potassium iodide | [I-].[K+]
reactant | 4-isobutoxynitrobenzene | 203 g | C(C(C)C)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H13NO3
reactant | Bromine | 183 g | BrBr | Br2
solvent | water | O | H2O
product | 2-isobutoxy-5-nitrobromobenzene | 248 g | C(C(C)C)OC1=C(C=C(C=C1)[N+](=O)[O-])Br | C10H12BrNO3
